US06034275
A mixture of 7 g of tert-butyl (4-hydroxy)-piperidine-1-carboxylate and 210 ml of 1,6-dibromohexane is treated firstly with 3.5 g of tetrabutylammonium hydrogen sulphate and then with 210 ml of 50% aqueous sodium hydroxide solution. After stirring at room temperature for 5 days the reaction mixture is diluted with methylene chloride, the organic phase is separated and the aqueous phase is extracted with methylene chloride. The combined organic phases are washed with saturated sodium chloride solution, dried and concentrated. The brown oil is chromatographed on silica gel with ethyl acetate-hexane. 10.9 g of tert-butyl 4-(6-bromo-hexyloxy)-piperidine-1-carboxylate are obtained.

reactant | tert-butyl (4-hydroxy)-piperidine-1-carboxylate | 7 g | OC1CCN(CC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | 1,6-dibromohexane | 210 ml | BrCCCCCCBr | C6H12Br2
reactant | sodium hydroxide | 210 ml | [OH-].[Na+]
catalyst | tetrabutylammonium hydrogen sulphate | 3.5 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-(6-bromo-hexyloxy)-piperidine-1-carboxylate | 10.9 g | BrCCCCCCOC1CCN(CC1)C(=O)OC(C)(C)C | C16H30BrNO3
